US06632824B2
tert-Butyl-3-{1-[tert-butyl(dimethyl)silyl]-1H-indol-3-yl}-3-hydroxy-8-azabicyclo[3.2.1]octane-8-carboxylate
To 4.8 g (15.5 mmol) 3-bromo-1-(tert-butyl-dimethyl-silanyl)-1H-indole in 60 mL THF at −78° C. is added 19.1 mL (32.5 mmol) of a 1.7M solution of t-BuLi/pentane in drops over 10 min. After stirring at −78° C. for 30 min, 3.48 g (15.5 mmol) 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester in 20 mL THF is added via a cannula over 5 min. After stirring at 23° C. for 3 h, the reaction mixture is poured into sat. aqueous NaHCO3, and extracted with 2×50 mL EtOAc. The combined organics are washed with 1×100 mL H2O, 1×100 mL brine, dried over MgSO4, filtered and evaporated to an orange oil. Flash chromatography on SiO2 gel, eluting with CH2Cl2/EtOAc (80/1 to 20/1), gives 3.74 g (8.2 mmol, a 53% yield) of the title compound as an off-white wax. MS (ES) m/z 457 (MH)+.

reactant | 3-bromo-1-(tert-butyl-dimethyl-silanyl)-1H-indole | 15.5 mmol, 4.8 g | BrC1=CN(C2=CC=CC=C12)[Si](C)(C)C(C)(C)C | C14H20BrNSi
reactant | t-BuLi pentane | [Li]C(C)(C)C.CCCCC
reactant | 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 15.5 mmol, 3.48 g | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=O | C12H19NO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-Butyl-3-{1-[tert-butyl(dimethyl)silyl]-1H-indol-3-yl}-3-hydroxy-8-azabicyclo[3.2.1]octane-8-carboxylate | 53% yield | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)(O)C2=CN(C1=CC=CC=C21)[Si](C)(C)C(C)(C)C | C26H40N2O3Si
